### PR TITLE
[Merged by Bors] - feat (Algebra/Group/Action/Units): add Units.smul_eq_mul

### PR DESCRIPTION
**Pull request by ScottCarnahan**
The usual `smul_eq_mul` simp lemma runs into a diamond from two `SMul` instances on units of a `CommMonoid`: `Units.mulAction'.toSMul` and `Mul.toSMul`. This PR adds an extra simp lemma to cover this case.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Ring/NegOnePow.lean [hunk 1]
```diff
@@ -28,9 +28,14 @@ def negOnePow (n : ℤ) : ℤˣ := (-1 : ℤˣ) ^ n
 lemma negOnePow_def (n : ℤ) : n.negOnePow = (-1 : ℤˣ) ^ n := rfl
 
 lemma negOnePow_add (n₁ n₂ : ℤ) :
-    (n₁ + n₂).negOnePow =  n₁.negOnePow * n₂.negOnePow :=
+    (n₁ + n₂).negOnePow = n₁.negOnePow * n₂.negOnePow :=
   zpow_add _ _ _
 
+@[simp]
+lemma negOnePow_smul (n₁ n₂ : ℤ) :
+    n₁.negOnePow • n₂.negOnePow = n₁.negOnePow * n₂.negOnePow := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Ring/NegOnePow.lean]: Isn't this just `smul_eq_mul`?

Comment (ScottCarnahan) [reply Mathlib/Algebra/Ring/NegOnePow.lean]: There seems to be a diamond here: `convert smul_eq_mul n₁.negOnePow n₂.negOnePow` produces the goal `Units.mulAction'.toSMul = Mul.toSMul ℤˣ`.

Comment (ScottCarnahan) [reply Mathlib/Algebra/Ring/NegOnePow.lean]: `aesop` informs me that this can be finished with `ext; rfl`.

Comment (eric-wieser) [reply Mathlib/Algebra/Ring/NegOnePow.lean]: I think the right statement is
```lean
@[simp]
lemma Units.smul_eq_mul {M} [CommMonoid M] (u₁ u₂ : Mˣ) :
    u₁ • u₂ = u₁ * u₂ := by
  fail_if_success rfl -- there is an instance diamond here
  ext
  rfl
```
for which I believe there is a zulip thread.

**Comment by eric-wieser** [comment]
Thanks! I'd like to find the zulip thread about this before merging, I remember one from long ago.

File: Mathlib/Algebra/Ring/NegOnePow.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Ring/NegOnePow.lean]: Is it [fintype(units(zmod n))](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/fintype.20.28units.20.28zmod.20n.29.29) ?

Comment (eric-wieser) [reply Mathlib/Algebra/Ring/NegOnePow.lean]: It's [#general > units.mul_action' diamond @ 💬](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/units.2Emul_action'.20diamond/near/246400399); can you link it in the docstring of this lemma?

File: Mathlib/Algebra/Group/Action/Units.lean [hunk 2]
```diff
@@ -75,6 +75,15 @@ instance mulAction' [Group G] [Monoid M] [MulAction G M] [SMulCommClass G M M]
   one_smul _ := Units.ext <| one_smul _ _
   mul_smul _ _ _ := Units.ext <| mul_smul _ _ _
 
+/-- This is not the usual `smul_eq_mul` because `mulAction'` creates a diamond. See zulip:
+https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/units.2Emul_action'.20diamond/near/246400399 -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Action/Units.lean]:
```suggestion
/-- This is not the usual `smul_eq_mul` because `mulAction'` creates a diamond.

Discussed [on Zulip](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/units.2Emul_action'.20diamond/near/246400399). -/
```
to make the link (probably) clickable in doc hovers.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
